US05110977
N-(4-Methylvaleryloxyethyl)-N,N-dimethylbenzylammonium m-nitrobenzenesulfonate
A hot solution (300 ml) of 56.29 g (0.25 mol) of sodium m-nitrobenzenesulfonate in water was added to a solution (300 ml) of 78.48 g (0.25 mol) of N-(4-methylvaleryloxyethyl)-N,N-dimethylbenzylammonium chloride prepared as described in Example 8) in water. An oily precipitate formed immediately which crystallized on cooling. The solid was collected, washed with water and dissolved in methylene chloride. The water layer was separated and the organic layer was dried over MgSO4 and concentrated. Recrystallization of the solid residue from isopropanol gave 81.6 g of product; mp=106°-8° C. Anal.Calcd. for C23H32N2O7 ; C,57.84;H,6.71;N,5.83;S,6.67; Found: C,57.26;H,6.53;N,5.90;S,6.85.

reactant | sodium m-nitrobenzenesulfonate | 0.25 mol, 56.29 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | N-(4-methylvaleryloxyethyl)-N,N-dimethylbenzylammonium chloride | 0.25 mol, 78.48 g | [Cl-].CC(CCC(=O)OCC[N+](C)(C)CC1=CC=CC=C1)C
solvent | water | O | H2O
product | N-(4-Methylvaleryloxyethyl)-N,N-dimethylbenzylammonium m-nitrobenzenesulfonate | 81.6 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].CC(CCC(=O)OCC[N+](C)(C)CC1=CC=CC=C1)C | InChI=1S/C17H28NO2.C6H5NO5S/c1-15(2)10-11-17(19)20-13-12-18(3,4)14-16-8-6-5-7-9-16;8-7(9)5-2-1-3-6(4-5)13(10,11)12/h5-9,15H,10-14H2,1-4H3;1-4H,(H,10,11,12)/q+1;/p-1
